US07932251B2
Under nitrogen atmosphere, a solution of triphenylphosphine (0.94 g) in THF (4 ml) was added slowly to a mixture of 4-(3-hydroxy-propyl)-piperazine-1-carboxylic acid tert-butyl ester (0.80 g) and tetrabromomethane (1.19 g) in THF (15 ml). The mixture was stirred at room temperature for 16 hours, then ethyl acetate (100 ml) and a saturated solution of sodium carbonate (30 ml) were added and the organic layer was washed with brine, then dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent: Cyclohexane/Ethyl acetate 8/2) to afford 4-(3-bromo-propyl)-piperazine-1-carboxylic acid tert-butyl ester (0.66 g).

reactant | triphenylphosphine | 0.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(3-hydroxy-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.80 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCO | C12H24N2O3
reactant | tetrabromomethane | 1.19 g | BrC(Br)(Br)Br | CBr4
reactant | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3-bromo-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.66 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCBr | C12H23BrN2O2
